US07772270B2
Compound No. 20: 1-(4-Acetylbenzenesulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid
1 g of octahydrocyclopenta[b]pyrrole-2-carboxylic acid (6.45 mmol) was dissolved in 20 ml of DMF, after which 3 equivalents of a 3N solution of NaOH (6.45 ml) were added at 0° C. After 10 min, a solution of 1.55 g of 4-acetylbenzenesulfonyl chloride (1.1 equivalents, 7.1 mmol) in 8 ml of DMF was slowly added dropwise; after it had reached RT, the mixture was stirred at 40° C. for a further 6 h and, after that, the solvent was removed under reduced pressure. The crude product was purified chromatographically.

reactant | octahydrocyclopenta[b]pyrrole-2-carboxylic acid | 6.45 mmol, 1 g | N1C2C(CC1C(=O)O)CCC2 | C8H13NO2
reactant | NaOH | 6.45 ml | [OH-].[Na+]
reactant | 4-acetylbenzenesulfonyl chloride | 7.1 mmol, 1.55 g, 1.1 equivalents | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-(4-Acetylbenzenesulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N1C2C(CC1C(=O)O)CCC2 | C16H19NO5S
